US05849743
a) Preparation of N-((2,5-dimethoxy-3-tetrahydrofuranyl)methyl)trifluoroacetamide
50 g (0.31 mol) of 3-aminomethyl-2,5-dimethoxytetrahydrofuran, 31.7 g (0.31 mol) of triethylamine and a little 4-(N,N-dimethylamino)pyridine were dissolved in 300 ml of anhydrous ether and, at 0° to 5° C., 65.1 g (0.31 mol) of trifluoroacetic anhydride dissolved in 100 ml of anhydrous ether were added dropwise. The mixture was then stirred for 1 h and subsequently washed with water, dried and concentrated under reduced pressure. 70.5 g of the abovementioned product, which was impure and was reacted further without further purification, were obtained.

reactant | 3-aminomethyl-2,5-dimethoxytetrahydrofuran | 0.31 mol, 50 g | NCC1C(OC(C1)OC)OC | C7H15NO3
reactant | triethylamine | 0.31 mol, 31.7 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.31 mol, 65.1 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
catalyst | 4-(N,N-dimethylamino)pyridine | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | ether | 300 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | N-((2,5-dimethoxy-3-tetrahydrofuranyl)methyl)trifluoroacetamide | COC1OC(CC1CNC(C(F)(F)F)=O)OC | C9H14F3NO4
